US07417052B2
(5-methyl-2-oxo-1,3-dioxolen-4-yl)methyl3-[N-[[4-[2-(1H-tetrazol-5-yl)phenyl]phenyl]methyl]-N-pentanoylamino]benzoate (Example Compound No. 3-25)
To a solution of the obtained (5-methyl-2-oxo-1,3-dioxolen-4-yl)methyl 3-[N-[[4-[2-(3-triphenylmethyl-3H-tetrazol-5-yl)phenyl]phenyl]methyl]-N-pentanoylamino]benzoate (11.57 g) in dioxane (80 ml) were added acetic acid (60 ml) and water (20 ml), and the mixture was stirred at 40° C. for 7 hrs. The reaction mixture was concentrated to give a solid, and the residue was purified by silica gel column chromatography (methylene chloride-methanol:10-1 v/v) to give the object compound (5.01 g).

reactant | (5-methyl-2-oxo-1,3-dioxolen-4-yl)methyl 3-[N-[[4-[2-(3-triphenylmethyl-3H-tetrazol-5-yl)phenyl]phenyl]methyl]-N-pentanoylamino]benzoate | 11.57 g | C1(=CC=CC=C1)C(N1N=NC(=N1)C1=C(C=CC=C1)C1=CC=C(C=C1)CN(C(CCCC)=O)C=1C=C(C(=O)OCC=2OC(OC2C)=O)C=CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C50H43N5O6
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
reactant | water | 20 ml | O | H2O
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | (5-methyl-2-oxo-1,3-dioxolen-4-yl)methyl3-[N-[[4-[2-(1H-tetrazol-5-yl)phenyl]phenyl]methyl]-N-pentanoylamino]benzoate | 5.01 g | CC1=C(OC(O1)=O)COC(C1=CC(=CC=C1)N(C(CCCC)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O | C31H29N5O6
